US06727264B1
1-(4-CHLOROBUTYL)-1H-INDOLE:
Prepared by Procedure AH, and Scheme P using 1H-indole and 1-bromo-4-chlorobutane: 1NMR (400 MHz, CDCl3) δ 7.72-7.02 (m, 5H), 6.49 (d, 1H, J=2.8 Hz), 4.13 (t, 2H, J=6.8 Hz), 3.48 (t, 2H, J=6.8 Hz), 2.06-1.92 (m, 2H), 1.80-1.70 (m, 2H).

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | 1-(4-CHLOROBUTYL)-1H-INDOLE | ClCCCCN1C=CC2=CC=CC=C12 | C12H14ClN
